US06274735B1
b) Preparation of 2-(4-benzyloxy-phenyl)-propan-2-ol
Under argon 6.63 g of magnesium (273 mmol) was suspended in 15 mL of tert-butyl methyl ether. A solution of 38.68 g of methyl iodide (273 mmol) in 145 mL of tert-butyl methyl ether was added during 45 min under stirring while maintaining the temperature at 40° C. Then stirring was continued at 40° C. for 1.5 h and then the mixture was cooled to room temperature. A solution of 30.0 g of methyl 4-benzyloxybenzoate (124 mmol) in 120 mL of tetrahydrofuran was then added during 1 h. The temperature was kept at 20° C. After complete addition, the reaction mixture was heated to 42° C. and stirred 3 h at this temperature. After cooling to room temperature, the reaction mixture was poured into a mixture of 300 mL of 10% aqueous ammonium chloride and 100 g of ice and extracted with ethyl acetate. The organic phases were washed with water and saturated aqueous sodium bicarbonate, combined, dried and evaporated to give the crude product as an oil which partially crystallised. The product was dissolved at 25° C. in diethyl ether. When crystals started to separate the solution was cooled to 18° C. After 30 min hexane was added. The suspension was then stirred for 1 h at 5° C. The crystalline 2-(4-benzyloxy-phenyl)-propan-2-ol was collected on a filter and washed with hexane.

reactant | magnesium | 273 mmol | [Mg] | Mg
reactant | methyl iodide | 273 mmol, 38.68 g | CI | CH3I
reactant | methyl 4-benzyloxybenzoate | 124 mmol, 30.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC)C=C1 | C15H14O3
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
reactant | tert-butyl methyl ether | 15 mL | COC(C)(C)C | C5H12O
reactant | tert-butyl methyl ether | 145 mL | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 2-(4-benzyloxy-phenyl)-propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)(C)O | C16H18O2
